US07084145B2
3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid N′-pentanoyl-hydrazide
The carboxylic acid from Preparation 1 (1.5 g, 7.3 mmol) was suspended in dichloromethane (40 ml) containing N,N-dimethylformamide (2 drops) and oxalyl chloride (1.27 ml, 14 mmol) in dichloromethane (5 ml) was added drop wise. The mixture was stirred for 5 hours at room temperature and then was evaporated under reduced pressure. The residue was suspended in hexane and evaporated (3×20 ml). The residue was dissolved in dichloromethane and cooled to 0° C. and pentanoic acid hydrazide (1.7 g, 14.6 mmol) was added. 1-Methyl-pyrrolidin-2-one (1.6 ml, 14.6 mmol) in dichloromethane (10 ml) was added drop wise and the mixture was stirred at room temperature for 16 hours. The solvent was evaporated under reduced pressure and the residue was triturated with diethyl ether. The material obtained was dissolved in water and acidified to pH2 by addition of 2N hydrochloric acid. The acidic solution filtered and the filtrate was washed with ethyl acetate (3×20 ml) then basified with sodium carbonate. The solid formed was triturated with diethyl ether and isolated by filtration to give the title compound as a white solid (0.68 g).

reactant | oxalyl chloride | 14 mmol, 1.27 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pentanoic acid hydrazide | 14.6 mmol, 1.7 g | C(CCCC)(=O)NN | C5H12N2O
reactant | 1-Methyl-pyrrolidin-2-one | 14.6 mmol, 1.6 ml | CN1C(CCC1)=O | C5H9NO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3,4,5,6-Tetrahydro-2H-[1,2′]bipyridinyl-4-carboxylic acid N′-pentanoyl-hydrazide | 0.68 g | C(CCCC)(=O)NNC(=O)C1CCN(CC1)C1=NC=CC=C1 | C16H24N4O2
